US08071584B2
2-(5-Bromo-2-thienyl)ethanol
2-(2-thienyl)ethanol (Aldrich, 5.0 g, 39 mmol) was diluted in toluene (50 mL) and cooled to −20° C. using an ice/NaCl bath. NBS (6.95 g, 39 mmol, 1 eq) was added portionwise over 15 minutes and the mixture was stirred at rt overnight. After quenching with 10% aq potassium hydroxide (20 mL), the layers were separated and the aqueous layer was extracted twice with dichloromethane (50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated. Purification by Isco Combiflash, eluting with 0-80% ethyl acetate in hexanes (120 g column), afforded the desired as a slightly yellow oil (6.72 g, 83%).

reactant | 2-(2-thienyl)ethanol | 39 mmol, 5.0 g | S1C(=CC=C1)CCO | C6H8OS
reactant | NBS | 39 mmol, 6.95 g, 1 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-Bromo-2-thienyl)ethanol | BrC1=CC=C(S1)CCO | C6H7BrOS
